US07081538B1
(5RS)-3-(3-Fluoro-4-imidazol-1-ylphenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole
A slurry of sodium hydride (60% in oil, 22 mg, 0.55 mM) in anhydrous N,N-dimethylformamide (0.5 ml) was stirred under an atmosphere of nitrogen and treated dropwise with a solution of imidazole (38 mg, 0.55 mM) in anhydrous N,N-dimethylformamide (0.5 ml) at 0°. The mixture was allowed to warm to ambient temperature over 20 minutes, then a solution of (5RS)-3-(3,4-difluorophenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole (140 mg, 0.5 mM) in anhydrous N,N-dimethylformamide (1 ml) added, and the mixture stirred at 70° for 16 hours. After cooling, the mixture was partitioned between aqueous sodium bicarbonate solution (20 ml) and ethyl acetate (20 ml), and the organic extract washed with water (20 ml) and brine (20 ml). After drying (magnesium sulfate) and evaporation, the crude product was chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient from 0–2.5% methanol in dichloromethane. Relevant fractions were combined to give the desired product (68 mg). MS (ESP): 329 (MH+) for C16H13FN4O3

reactant | sodium hydride | 0.55 mM, 22 mg | [H-].[Na+]
reactant | imidazole | 0.55 mM, 38 mg | N1C=NC=C1 | C3H4N2
reactant | (5RS)-3-(3,4-difluorophenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 0.5 mM, 140 mg | FC=1C=C(C=CC1F)C1=NOC(C1)COC1=NOC=C1 | C13H10F2N2O3
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (5RS)-3-(3-Fluoro-4-imidazol-1-ylphenyl)-5-isoxazol-3-yloxymethyl-4,5-dihydroisoxazole | 68 mg | FC=1C=C(C=CC1N1C=NC=C1)C1=NOC(C1)COC1=NOC=C1 | C16H13FN4O3
